US06313297B1
According to GP, 2.22 mmol (=0.40 g) of 1-(4-fluorophenyl)piperazine and 2.22 mmol (=0.30 g=0.30 ml) of para-methoxystyrene are reacted with 5 mol % (=0.111 mmol=70 μl) of n-BuLi solution. Column-chromatographic separation with ethyl acetate gives the product 1-(4-fluorophenyl)-4-[2-(4-methoxyphenyl)-1-ethyl]piperazine as a light-yellow solid.

reactant | 1-(4-fluorophenyl)piperazine | 2.22 mmol, 0.40 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | para-methoxystyrene | 2.22 mmol, 0.30 ml, 0.30 g | COC1=CC=C(C=C)C=C1 | C9H10O
reactant | n-BuLi | 0.111 mmol, 70 μl | [Li]CCCC
product | 1-(4-fluorophenyl)-4-[2-(4-methoxyphenyl)-1-ethyl]piperazine | FC1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=C(C=C1)OC | C19H23FN2O
